US04263299
(a) 1-Benzyl-4-(3-hydroxypropyl)piperazine
Alkylation of 1-benzylpiperazine (16 g, 0.091 mole) with 3-bromopropan-1-ol (13.88 g; 0.01 mole) as described in Example 1(c) gave, after chromatography, 12.9 g (61%) of the product as a colourless oil. νmax (film) 3300, 2920, 2800, 1595 cm-1 ; (Found; C, 69.41; H, 9.60; N, 11.75; C14H22N2O.O.5H2O requires; C, 69.10; H, 9.52; N, 11.51%).

reactant | 1-benzylpiperazine | 0.091 mole, 16 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 3-bromopropan-1-ol | 0.01 mole, 13.88 g | BrCCCO | C3H7BrO
product | 1-Benzyl-4-(3-hydroxypropyl)piperazine | C(C1=CC=CC=C1)N1CCN(CC1)CCCO | C14H22N2O
